US05744426
3-(4-Chlorophenyl)-1-methyl-2-pyrazolin-5-one
71.2 g (1.55 mol) of methylhydrazine were added dropwise over the course of40 minutes to a suspension of 267 g (1.19 mol) of ethyl 4-chlorobenzoylacetate in 1.5 1 of acetic acid, the temperature rising to 50° C. The reaction solution was stirred at 100° C. for 2 hours and cooled, and then about 1.5 1 each of ether and water were added.The precipitate formed (66.5 g) was filtered off and washed with petroleum ether/ether (1:1). The organic phase was washed four times with saturated sodium hydrogen carbonate solution and concentrated, and the residue was taken up in water. Once again the precipitate formed was filtered off and washed with petroleum ether/ether (1:1). Overall yield: 171 g; m.p. 189° C.

reactant | methylhydrazine | 1.55 mol, 71.2 g | CNN | CH6N2
reactant | ethyl 4-chlorobenzoylacetate | 1.19 mol, 267 g | ClC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11ClO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-(4-Chlorophenyl)-1-methyl-2-pyrazolin-5-one | ClC1=CC=C(C=C1)C1=NN(C(C1)=O)C | C10H9ClN2O
